US08334287B2
b) 5-(4-iodo-2-methyl-imidazol-1-yl)-2-methyl-2H-pyridazin-3-one
To a solution of 160 mg (1.11 mmol) of 5-chloro-2-methyl-2H-pyridazin-3-one (CAS: [14628-34-3]), 230 mg (1.11 mmol) of 4-iodo-2-methyl-1H-imidazole (CAS: [73746-45-9]), in 3.5 ml of dry DMF were added 721 mg (2.21 mmol) of cesium carbonate. The suspension was stirred for 30 min at 45° C., then for 3 h at 65° C. and allowed to cool. The cristallised product is filtered off, washed with ethyl acetate and dried in vaccuo to yield 250 mg (0.791 mmol, 71%) of the title compound as a crystalline light yellow solid, MS: m/e=316.9 (M+H+).

reactant | 5-chloro-2-methyl-2H-pyridazin-3-one | 1.11 mmol, 160 mg | ClC1=CC(N(N=C1)C)=O | C5H5ClN2O
reactant | 4-iodo-2-methyl-1H-imidazole | 1.11 mmol, 230 mg | IC=1N=C(NC1)C | C4H5IN2
reactant | cesium carbonate | 2.21 mmol, 721 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 3.5 ml | CN(C)C=O | C3H7NO
product | 5-(4-iodo-2-methyl-imidazol-1-yl)-2-methyl-2H-pyridazin-3-one | 0.791 mmol, 250 mg, 71% | IC=1N=C(N(C1)C1=CC(N(N=C1)C)=O)C | C9H9IN4O
